US07109229B2
(b) Methyl 2-(6-Ethoxy-1H-indol -3-yl)oxoacetate
A 2.0 M solution of oxalyl chloride in methylene chloride (6.65 mL, 13.3 mmol) was added to a solution of 6-ethoxyindole (2.0 g, 12.4 mmol) in ether (25 mL) dropwise over 10 min at 4° C. under N2. The resulting mixture was stirred for 1 h at 4° C. A 25% (w/w) sodium methoxide in methanol solution (6.2 mL, 28.5 mmol) was added at −78° C. The mixture was allowed to warm up to room temperature and stirred for 4 h. The reaction was quenched with water (50 mL) and extracted with methylene chloride. The organic solution was dried (MgSO4) and concentrated at reduced pressure. The residue was stirred in a solution of EtOAc (50 mL) and ether (50 mL) for 10 min. Solid was collected by filtration to give the title compound (2.2 g, 73%) after drying. 1H NR (CDCl3) δ 8.20 (s, 1H), 7.90 (d, J=9 Hz, 1H), 6.92 (s, 1H), 6.82 (d, J=9 Hz, 1H), 4.00 (q, J=6.5 Hz, 2H), 3.78 (s, 3H), 1.30 (t, J=6.5 Hz, 3H)

reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methylene chloride | 13.3 mmol, 6.65 mL | C(Cl)Cl | CH2Cl2
reactant | 6-ethoxyindole | 12.4 mmol, 2.0 g | C(C)OC1=CC=C2C=CNC2=C1 | C10H11NO
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 28.5 mmol, 6.2 mL | CO | CH4O
solvent | ether | 25 mL | CCOCC | C4H10O
product | Methyl 2-(6-Ethoxy-1H-indol -3-yl)oxoacetate | 2.2 g, 73% | C(C)OC1=CC=C2C(=CNC2=C1)C(C(=O)OC)=O | C13H13NO4
